US08703922B2
Mono-O-(5,9,13,17-tetramethyloctadec-4-enoyl)pentaerythritol and pure water were introduced into a mixing device at the concentration of 50 wt % Mono-O-(5,9,13,17-tetramethyloctadec-4-enoyl)pentaerythritol (water-excess condition), and incubation thereof was carried out while performing 100 or more times of mixing operations at room temperature (25° C.) over the period of 24 hours. Thus, a homogeneously mixed sample of mono-O-(5,9,13,17-tetramethyloctadec-4-enoyl)pentaerythritol/water system was obtained. This sample of mono-O-(5,9,13,17-tetramethyloctadec-4-enoyl)pentaerythritol/water system appeared to be a white turbid gel composition.

reactant | Mono-O-(5,9,13,17-tetramethyloctadec-4-enoyl)pentaerythritol | CC(=CCCC(=O)OCC(CO)(CO)CO)CCCC(CCCC(CCCC(C)C)C)C | C27H52O5
solvent | water | O | H2O
product | mono-O-(5,9,13,17-tetramethyloctadec-4-enoyl)pentaerythritol water | CC(=CCCC(=O)OCC(CO)(CO)CO)CCCC(CCCC(CCCC(C)C)C)C.O | InChI=1S/C27H52O5.H2O/c1-22(2)10-6-11-23(3)12-7-13-24(4)14-8-15-25(5)16-9-17-26(31)32-21-27(18-28,19-29)20-30;/h16,22-24,28-30H,6-15,17-21H2,1-5H3;1H2
